US07781229B2
(c). Synthesis of 3-tert-Butyldimethylsilyloxybenzoyl chloride
Into a 100 mL round bottom flask a mixture of 5 parts of 3-tert-butyldimethylsilyloxybenzoic acid and 25 mL of thionyl chloride was heated at reflux for 1 hr 30 min. The reaction mixture was concentrated under reduced pressure to yield 5.77 parts of an oil.

reactant | 3-tert-butyldimethylsilyloxybenzoic acid | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)O)C=CC1 | C13H20O3Si
reactant | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-tert-Butyldimethylsilyloxybenzoyl chloride | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)Cl)C=CC1 | C13H19ClO2Si
